US06355642B1
1-Phenyl-2-methylpiperazine
1-(4-chlorophenyl)-2-methylpiperazine (300 mg, 1.4 mmol) was dissolved in methanol (3 ml), and the resulting solution was mixed with palladium carbon (150 mg) and stirred at a room temperature for 21 hours in an atmosphere of hydrogen. The reaction solution was filtered, and the thus obtained residue was thoroughly washed with ethanol. The washed solution and filtrate were combined, and the solvent was evaporated therefrom under a reduced pressure to obtain 260 mg of the title compound (1.4 mmol, 100% in yield).

reactant | 1-(4-chlorophenyl)-2-methylpiperazine | 1.4 mmol, 300 mg | ClC1=CC=C(C=C1)N1C(CNCC1)C | C11H15ClN2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium carbon | 150 mg | [C].[Pd]
product | 1-Phenyl-2-methylpiperazine | 1.4 mmol, 260 mg, 100% | C1(=CC=CC=C1)N1C(CNCC1)C | C11H16N2
